US07960377B2
To a biphasic mixture of 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonyl chloride (40 mg, 0.118 mmol) in DCM (1.5 mL) and saturated aqueous NaHCO3 (1.5 mL) was added piperidine (25 μL, 0.253 mmol). The reaction was stirred at room temperature for 16 hours. TLC analysis of the reaction mixture indicated consumption of starting material. The biphasic mixture was extracted with DCM (1.5 mL) (3×2 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting solid was purified by flash column chromatography using a gradient elution of hexanes with 10-90% EtOAc to provide (1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-7-yl)(piperidin-1-yl)methanone (32.5 mg, 0.081 mmol, 68.9% yield) as a white solid. LCMS (+ESI) m/z=388.1 [M+H]+; 1H-NMR (CDCl3) δ 8.25. (d, 1H), 8.14 (d, 1H), 7.66 (m, 2H), 7.61 (tt, 1H), 7.49 (m, 2H), 3.93 (m, 2H), 3.85 (m, 2H), 3.69 (br s, 2H), 3.45 (br s, 2H), 1.75-1.55 (m, 6H).

reactant | 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonyl chloride | 0.118 mmol, 40 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)Cl | C14H11ClN2O4S
reactant | piperidine | 0.253 mmol, 25 μL | N1CCCCC1 | C5H11N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 1.5 mL | C(=O)(O)[O-].[Na+]
product | (1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazin-7-yl)(piperidin-1-yl)methanone | 0.081 mmol, 32.5 mg, 68.9% yield | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)N2CCCCC2 | C19H21N3O4S
